US07544812B2
1-(4-tert-Butyl-benzyl)-4-[3-(3-iodo-4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one
To a solution of 1-(4-tert-Butyl-benzyl)-4-[3-(4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one (0.630 g, 1.60 mmole) in ethanol (15 mL), is added iodine (0.810 g, 3.20 mmole) followed by silver sulfate (0.998 g, 3.20 mmole). The reaction mixture is stirred at room temperature overnight. The precipitate is removed through filtration, and the solution is concentrated in vacuo. The residue is purified by column chromatography (silica gel, gradient elution 0-20% acetone in hexane) to provide a white foamy solid (0.584 g, 70%). Mass [EI+] 521 (M+H)+.

reactant | 1-(4-tert-Butyl-benzyl)-4-[3-(4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one | 1.60 mmole, 0.630 g | C(C)(C)(C)C1=CC=C(CN2C(N(C(C2)CCCC2=CC=C(C=C2)OC)C)=O)C=C1 | C25H34N2O2
reactant | iodine | 3.20 mmole, 0.810 g | II | I2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | silver sulfate | 3.20 mmole, 0.998 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 1-(4-tert-Butyl-benzyl)-4-[3-(3-iodo-4-methoxy-phenyl)-propyl]-3-methyl-imidazolidin-2-one | 0.584 g, 70% | C(C)(C)(C)C1=CC=C(CN2C(N(C(C2)CCCC2=CC(=C(C=C2)OC)I)C)=O)C=C1 | C25H33IN2O2
